US08008321B2
(6-Aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone
This compound is obtained according to the same process as that described in the preceding example 15 by deprotection of the amine of the compound [6-(tert-butoxycarbonylamino)imidazo[1,5-a]pyridin-3-yl](3-methoxy-4-nitrophenyl)methanone with trifluoroacetic acid. A yellow solid is obtained which is salified in the hydrochloride form. Melting point: 252° C.; 1H NMR (d6-DMSO): 4.01 (3H, s), 7.14 (1H, d), 7.79 (1H, s), 7.87 (1H, d), 7.97-8.01 (2H, m), 8.13 (1H, s), 9.41 (1H, s)

reactant | [6-(tert-butoxycarbonylamino)imidazo[1,5-a]pyridin-3-yl](3-methoxy-4-nitrophenyl)methanone | C(C)(C)(C)OC(=O)NC=1C=CC=2N(C1)C(=NC2)C(=O)C2=CC(=C(C=C2)[N+](=O)[O-])OC | C20H20N4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloride | Cl | ClH
product | (6-Aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone | NC=1C=CC=2N(C1)C(=NC2)C(=O)C2=CC(=C(C=C2)[N+](=O)[O-])OC | C15H12N4O4
